US08791132B2
Sodium hydride (60%) (555 mg, 13.88 mmol) was added portionwise to a solution of 6-methoxy-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (1.0 g, 4.629 mmol) in DMF (10 mL) and stirred at RT for 15 min, the suspension was allowed to cool at 0° C. 4-(Oxiran-2-yl)pyridine (896 mg, 7.407 mmol) was added dropwise and reaction mixture was stirred at RT for 48 h. The reaction mixture was poured in to ice-cooled water and extracted with EtOAc (3×50 mL), and the organic layer was washed with water (2×50 mL), dried over anhydrous sodium sulfate and concentrated in vacuo, afforded crude was purified by reverse phase HPLC to afford 2-(6-methoxy-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(pyridin-4-yl)ethanol (165 mg) as the formate salt. 1H NMR (CDCl3, freebase) δ (ppm): 8.60 (d, 2H), 7.31 (d, 2H), 7.02 (m, 2H), 6.66 (d, 1H), 5.08 (dd, 1H), 4.66 (dd, 1H), 4.12 (dd, 1H), 3.99 (s, 3H), 3.60 (d, 1H), 3.56 (d, 1H), 2.9 (m, 1H), 2.81 (m, 1H), 2.72 (m, 1H), 2.64 (m, 1H), 2.55 (s, 3H). Separation by chiral HPLC provided enantiomers 44a and 44b.

reactant | Sodium hydride | 13.88 mmol, 555 mg | [H-].[Na+]
reactant | 6-methoxy-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 4.629 mmol, 1.0 g | COC1=CC=CC=2C3=C(NC12)CCN(C3)C | C13H16N2O
reactant | 4-(Oxiran-2-yl)pyridine | 7.407 mmol, 896 mg | O1C(C1)C1=CC=NC=C1 | C7H7NO
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(6-methoxy-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(pyridin-4-yl)ethanol | 165 mg | COC1=CC=CC=2C3=C(N(C12)CC(O)C1=CC=NC=C1)CCN(C3)C | C20H23N3O2
